US05143923
N-[2-(1-(4-Fluorobenzoyl)-4-piperidinyl)ethyl]-1,2-benzisothiazole-3-carboxamide hydrochloride hemihydrate
A mixture of N-(2-chloroethyl)-1,2-benzisothiazole-3-carboxamide (3.5 g) and 1-(4-fluorobenzoyl)piperidine (3.63 g) in dry 1-methyl-2-pyrrolidinone (125 ml) was heated with stirring to 180° C., under nitrogen. After 3 hr, the reaction mixture was cooled to room temperature and poured into saturated aqueous sodium carbonate solution. The aqueous phase was extracted with ethyl acetate, and the combined organic extracts were washed with water, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo. The residue was triturated with ether, and the filtrate was concentrated. The residue was chromatographed on silica using ethyl acetate as the eluent. The appropriate fractions were combined and concentrated. The residue was taken up in ether and hydrogen chloride in ether was added. The precipitate was recrystallized from methanol/dichloromethane/ether to provide 1.21 g (18.1%) of product, mp 188°-190° C.

reactant | N-(2-chloroethyl)-1,2-benzisothiazole-3-carboxamide | 3.5 g | ClCCNC(=O)C1=NSC2=C1C=CC=C2 | C10H9ClN2OS
reactant | 1-(4-fluorobenzoyl)piperidine | 3.63 g | FC1=CC=C(C(=O)N2CCCCC2)C=C1 | C12H14FNO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1-methyl-2-pyrrolidinone | 125 ml | CN1C(CCC1)=O | C5H9NO
product | N-[2-(1-(4-Fluorobenzoyl)-4-piperidinyl)ethyl]-1,2-benzisothiazole-3-carboxamide hydrochloride hemihydrate | 1.21 g, 18.1% | O.Cl.FC1=CC=C(C(=O)N2CCC(CC2)CCNC(=O)C2=NSC3=C2C=CC=C3)C=C1.FC1=CC=C(C(=O)N3CCC(CC3)CCNC(=O)C3=NSC2=C3C=CC=C2)C=C1.Cl | InChI=1S/2C22H22FN3O2S.2ClH.H2O/c2*23-17-7-5-16(6-8-17)22(28)26-13-10-15(11-14-26)9-12-24-21(27)20-18-3-1-2-4-19(18)29-25-20;;;/h2*1-8,15H,9-14H2,(H,24,27);2*1H;1H2
